US08053438B2
To a solution of 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid (10.50 g, 45.8 mmol) in DMF (200 mL) was added potassium carbonate (6.33 g, 45.8 mmol) followed by iodomethane (3.42 mL, 55.0 mmol). The reaction was stirred under N2 at RT 3 h. The reaction was poured into 10% aqueous K2CO3 (500 mL) and extracted with EtOAc (3×150 mL). The combined organic layers were washed with saturated NaCl (2×150 mL), dried (MgSO4) and concentrated to give 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate (11.8 g, 48.5 mmol, 106% yield) as a light yellow oil.

reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxylic acid | 45.8 mmol, 10.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | potassium carbonate | 45.8 mmol, 6.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 55.0 mmol, 3.42 mL | IC | CH3I
reactant | K2CO3 | 500 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate | 48.5 mmol, 11.8 g, 106% yield | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
